US04997836
A mixture of methyl 4-benzyloxycarbonylpiperazine-2-carboxylate (1.2 g) obtained in Reference Example 21, triethylamine (0.9 g) and dichloromethane (15 ml) is added dropwise, taking 5 minutes while stirring at 0° C., to a solution of 3,4,5-trimethoxybenzoyl chloride (1.08 g) in dichloromethane (10 ml). The reaction mixture is stirred at room temperature for 10 minutes, and then poured into water, followed by extraction with dichloromethane. The organic layer is washed with water and dried, then the solvent is distilled off under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane:ethyl acetate:acetone=2:2:1) to give methyl 4-benzyloxycarbonyl-1-(3,4,5-trimethoxybenzoyl)-piperazine-2-carboxylate as a colorless oily product (2.1 g).

reactant | methyl 4-benzyloxycarbonylpiperazine-2-carboxylate | 1.2 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)C(=O)OC | C14H18N2O4
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzoyl chloride | 1.08 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | methyl 4-benzyloxycarbonyl-1-(3,4,5-trimethoxybenzoyl)-piperazine-2-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)OC | C24H28N2O8
